2159-03-20 10:51:00 Physician Resident Progress Note
Chief Complaint: Updated HPI: obtained records from OSH
   Patient is a 43 year old M with hx of EtOH seizures. Last drink was
   seven days prior to transfer to [**Hospital1 **], confirmed by neg tox screen on [**3-16**]
   at LMH. On [**3-16**], patient had a witnessed grand mal seziures lasting four
   minutes, and patient was taken to Lawernece [**Hospital1 **]. CT scan was
   negative, patient was given vol resus and observed. Patient was section
   12ed and sent to [**Hospital1 250**]. Patient was noted to have DTs, was given
   ativan 2mg iv x2 and sent to [**Hospital1 **].
   24 Hour Events:
   - CT head negative
   - patient given 425 mg Diazepam in 6 hours since admission
   - patient received 2.5 L NS, slight improvement in the tachycaridac
 NASAL SWAB - At [**2159-3-20**] 06:00 AM
   Allergies:
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2159-3-20**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-20**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 131 (111 - 146) bpm
   BP: 129/97(103) {123/79(89) - 180/114(124)} mmHg
   RR: 13 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,298 mL
                                                                  3,065 mL
   PO:
             TF:
   IVF:
                                                                  1,298 mL
                                                                  3,065 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  4,360 mL
   Urine:
                                                                  1,400 mL
                                                                  3,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -502 mL
                                                                 -1,295 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Anxious, Diaphoretic, combative
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   158 K/uL
   13.7 g/dL
   107 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   8 mg/dL
   104 mEq/L
   139 mEq/L
   38.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2159-3-19**]  09:53 PM
                             [**2159-3-20**]  05:15 AM
   WBC
   8.3
   7.8
   Hct
   37.2
   38.6
   Plt
   136
   158
   Cr
   0.8
   0.9
   Glucose
   109
   107
   Other labs: PT / PTT / INR:13.1/25.5/1.1, ALT / AST:62/83, Alk Phos / T
   Bili:81/0.9, Differential-Neuts:92.3 %, Lymph:4.2 %, Mono:2.1 %,
   Eos:1.1 %, Albumin:4.4 g/dL, LDH:363 IU/L, Ca++:9.0 mg/dL, Mg++:1.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-20**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2159-03-20 11:57:00 Physician Resident Progress Note
Chief Complaint: Updated HPI: obtained records from OSH
   Patient is a 43 year old M with hx of EtOH seizures. Last drink was
   seven days prior to transfer to [**Hospital1 **], confirmed by neg tox screen on [**3-16**]
   at LMH. On [**3-16**], patient had a witnessed grand mal seziures lasting four
   minutes, and patient was taken to Lawernece [**Hospital1 **]. CT scan was
   negative, patient was given vol resus and observed. Patient was section
   12ed and sent to [**Hospital1 250**]. Patient was noted to have DTs, was given
   ativan 2mg iv x2 and sent to [**Hospital1 **].
   24 Hour Events:
   - CT head negative
   - patient given 425 mg Diazepam in 6 hours since admission
   - patient received 2.5 L NS, slight improvement in the tachycaridac
 NASAL SWAB - At [**2159-3-20**] 06:00 AM
   Allergies:
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2159-3-20**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-20**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 131 (111 - 146) bpm
   BP: 129/97(103) {123/79(89) - 180/114(124)} mmHg
   RR: 13 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,298 mL
                                                                  3,065 mL
   PO:
             TF:
   IVF:
                                                                  1,298 mL
                                                                  3,065 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  4,360 mL
   Urine:
                                                                  1,400 mL
                                                                  3,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -502 mL
                                                                 -1,295 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Anxious, Diaphoretic, combative
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   158 K/uL
   13.7 g/dL
   107 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.7 mEq/L
   8 mg/dL
   104 mEq/L
   139 mEq/L
   38.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2159-3-19**]  09:53 PM
                             [**2159-3-20**]  05:15 AM
   WBC
   8.3
   7.8
   Hct
   37.2
   38.6
   Plt
   136
   158
   Cr
   0.8
   0.9
   Glucose
   109
   107
   Other labs: PT / PTT / INR:13.1/25.5/1.1, ALT / AST:62/83, Alk Phos / T
   Bili:81/0.9, Differential-Neuts:92.3 %, Lymph:4.2 %, Mono:2.1 %,
   Eos:1.1 %, Albumin:4.4 g/dL, LDH:363 IU/L, Ca++:9.0 mg/dL, Mg++:1.2
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   DT: Last drink was 3 days prior to admission and his adrenergic
   symptoms consisting of disorientation, tachycardia, hypertension,
   agitation & diaphoresis. This is consistent with DT. Patient received
   MVI/Thiamine/Folate in ED and in the unit. CT head negative.
   - Continue Valium 10 mg IV q15m for CIWA > 10, patient received 425mg
   so far.
   - since Ativan and Valium both have polyethylene glycol, will monitor
   for non-gap acidosis
   - checking 4pm lytes, if gap develops will switch to Versed
   - Low threshold for Ativan gtt if patient starts to have seizures
   - D5
 NS afterwards
   - CXR
   - maintain 2 PIVs
   Volume status
 patient appears to be a little dry,
   -          Bolus with NS for tachycardia, given 2.5L NS
   -          Will maintain good urine output to prevent renal failure
   from a potential rhabdo
   Psych: obtained OSH and psych facility records
   -          will c/s psych today, maintain section 12
   Dispo- currently sectioned 12
   - will need s/w c/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-20**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2159-03-21 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2159-3-20**] 11:11 PM
   [**3-20**] Events:
   - psych recs - Would Give Valium at standing dose of 15mg PO TID, with
   daily tapering. Only use addition prn of Valium 10mg IV for clear signs
   of etoh w/d and absence of signs of intoxication.  And use Haldol for
   agitation 2.5mg IV q2h prn. Monitor EKG for QTc prolongation
   - improved over the course of the day until late afternoon when he was
   more awake and unruly
   - around 6 pm, R hand turned cyanotic, had palp pulses; vascular and
   hand consulted; UE ultrasound positive for basillic thrombosis
   - low UO with no changes in Cr, given 500 cc bolus x2 overnight,
   improved slightly
   - hand team doing serial exams, no surgical intervention
   - vasc team did not recommend anticoag for clot, will follow along in
   the morning
   Allergies:
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2159-3-20**] 09:10 PM
   Diazepam (Valium) - [**2159-3-21**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-3-21**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 92 (92 - 140) bpm
   BP: 111/80(86) {90/48(59) - 148/101(112)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,213 mL
                                                                  2,457 mL
   PO:
             TF:
   IVF:
                                                                  4,213 mL
                                                                  2,457 mL
   Blood products:
   Total out:
                                                                  6,310 mL
                                                                    270 mL
   Urine:
                                                                  4,710 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,097 mL
                                                                  2,187 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Anxious, Diaphoretic, combative
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   11.4 g/dL
   126 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.6 mEq/L
   7 mg/dL
   109 mEq/L
   139 mEq/L
   32.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2159-3-19**]  09:53 PM
                             [**2159-3-20**]  05:15 AM
                             [**2159-3-20**]  11:24 PM
                             [**2159-3-21**]  04:45 AM
   WBC
   8.3
   7.8
   7.0
   Hct
   37.2
   38.6
   32.7
   Plt
   136
   158
   144
   Cr
   0.8
   0.9
   0.8
   0.6
   Glucose
   109
   107
   104
   126
   Other labs: PT / PTT / INR:13.6/27.1/1.2, CK / CKMB / Troponin-T:637//,
   ALT / AST:42/45, Alk Phos / T Bili:59/0.4, Differential-Neuts:92.3 %,
   Lymph:4.2 %, Mono:2.1 %, Eos:1.1 %, Lactic Acid:1.5 mmol/L, Albumin:4.4
   g/dL, LDH:285 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Patient is a 43 year old male with history of EtOH seizures p/w EtOH
   withdrawl with resolving DTs.
   DT: Last drink was 7 days prior to admission and his adrenergic
   symptoms consisting of disorientation, tachycardia, hypertension,
   agitation & diaphoresis. This is consistent with DT. Patient received
   MVI/Thiamine/Folate in ED and in the unit. CT head negative. Patient
   got agitated and was code purpled for getting agitated after not being
   allowed to smoke. Placed on high-dose nicotine patch.
   - cont four point restraints
   - Continue Valium 10 mg IV Q2H for CIWA > 10, patient received 80mg
   over past 24 hours.
   - patient eval by psych: Valium at standing dose of 15mg PO TID, with
   daily tapering. Only use addition prn of Valium 10mg IV for clear signs
   of etoh w/d and absence of signs of intoxication.  And use Haldol for
   agitation 2.5mg IV q2h prn. Monitor EKG for QTc prolongation
   - since Ativan and Valium both have polyethylene glycol, will monitor
   for non-gap acidosis
   - D5
 NS afterwards
   - maintain 2 PIVs
   R hand superficial vein trombosis
 warm, well purfused, good cap
   refill, pal radial pulse
   - could be a complication of polyethylene glycol
   - evaluated by hand and vascular surgery, NTD, will frequently monitor
   Psych: obtained OSH and psych facility records
   -          will c/s psych today, maintain section 12
   Hypokalemia
 repleting PRN
   Dispo- currently sectioned 12
   - stable for callout, can get CIWA Q2-4H
   - will need s/w c/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2159-3-21**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: